US06538007B1
To a stirred solution of iodobenzene diacetate (7.26 g) in a mixture of ethyl acetate (44 ml), acetonitrile (44 ml) and water (22 ml) was added 2(R)-benzyloxycarbonylamino-succinamic acid (5.0 g) at ambient temperature. After stirred for 3 hours, the reaction mixture was cooled to 5° C., followed by stirring for 2 hours. Insoluble material was collected by filtration, washed with ethyl acetate, and dried under reduced pressure to give 2(R)-benzyloxycarbonylamino-β-alanine (4.15 g) as a white solid.

reactant | iodobenzene diacetate | 7.26 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | acetonitrile | 44 ml | C(C)#N | C2H3N
reactant | water | 22 ml | O | H2O
reactant | 2(R)-benzyloxycarbonylamino-succinamic acid | 5.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(=O)O)CC(=O)N | C12H14N2O5
solvent | ethyl acetate | 44 ml | C(C)(=O)OCC | C4H8O2
product | 2(R)-benzyloxycarbonylamino-β-alanine | 4.15 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CN)C(=O)O | C11H14N2O4
